US04107326
1-Benzyl-3-[(3,4-dimethylbenzylidene)amino]guanidine hydroiodide
A mixture of 2.68 g. of 3,4-dimethylbenzaldehyde and 5.84 g. of 1-amino-3-benzylguanidine hydroiodide [W. J. Finnegan, R. A. Henry and E. Lieber, J. Org. Chem., 18, 779 (1953)] in 30 ml. of 66% aqueous ethanol is heated under reflux for 3 hours and then allowed to cool and crystallize. Filtration gives nearly colorless crystals which are recrystallized from aqueous ethanol, giving the desired product as cream-colored crystals, m.p. 183°-185° C.

reactant | 3,4-dimethylbenzaldehyde | CC=1C=C(C=O)C=CC1C | C9H10O
reactant | 1-amino-3-benzylguanidine hydroiodide | I.NNC(=N)NCC1=CC=CC=C1
solvent | ethanol | C(C)O | C2H6O
product | 1-Benzyl-3-[(3,4-dimethylbenzylidene)amino]guanidine hydroiodide | I.C(C1=CC=CC=C1)NC(=N)NN=CC1=CC(=C(C=C1)C)C | InChI=1S/C17H20N4.HI/c1-13-8-9-16(10-14(13)2)12-20-21-17(18)19-11-15-6-4-3-5-7-15;/h3-10,12H,11H2,1-2H3,(H3,18,19,21);1H
